US07101956B2
Into a 100 mL round-bottom flask equipped with a magnetic spin bar and a glass stopper was added 6-hydroxymethyl-6-methyl-1,10-undecadiene (9.41 g, 48 mmol), glacial acetic acid (60.1 g, 1.0 mol) and scandium (III) triflate (1.23 g, 2.5 mmol). The mixture was stirred at ambient temperature for approximately 10 minutes and a colorless solution was obtained. The reaction mixture was stirred for an additional 24 hours at ambient temperature. The reaction mixture was then transferred into a 500 mL separatory funnel and diluted with 100 mL of deionized water. The solution was extracted with three 50 mL portions of methylene chloride. The combined methylene chloride extracts were washed with two 100 mL portions of deionized water, 100 mL of saturated sodium bicarbonate, 100 mL of brine and finally dried over anhydrous magnesium sulfate. The excess methylene chloride was removed with a rotary evaporator to afford a light oil. The oil was distilled under vacuum to afford 9.39 g of 6-acetoxymethyl-6-methyl-1,10-undecadiene (bp=66 to 71° C./8.7 Pa). The FTIR, 13C and 1H nmr were consistent with the proposed structure.

reactant | 6-hydroxymethyl-6-methyl-1,10-undecadiene | 48 mmol, 9.41 g | OCC(CCCC=C)(CCCC=C)C | C13H24O
reactant | acetic acid | 1.0 mol, 60.1 g | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
catalyst | scandium (III) triflate | 2.5 mmol, 1.23 g | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 6-acetoxymethyl-6-methyl-1,10-undecadiene | 9.39 g | C(C)(=O)OCC(CCCC=C)(CCCC=C)C | C15H26O2
